US08912210B2
Step C: (3S,5S,6R)-3-Amino-6-methyl-5-phenyl-1-(2,2,2-trifluoroethyl)piperidin-2-one
A mixture of tert-butyl[(3S,5S,6R)-5-(3-chlorophenyl)-6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate (2.75 g, 6.53 mmol) and 20 wt. % palladium hydroxide on carbon (−50 wt. % wet, 700 mg, 0.50 mmol) in methanol (100 mL) was stirred under a hydrogen balloon at 23° C. for 16 h. The catalyst was removed by filtration through Celite® and washed thoroughly with methanol and ethyl acetate. Following concentration of the filtrate, a solution of the residue in ethyl acetate (100 mL) pre-cooled to 0° C. was sparged with HCl gas for ˜1 min. The ice-bath was removed and the acidic solution was allowed to warm to 23° C. as stirring was continued for 2 h. The mixture was then concentrated to dryness to afford the title compound as a hydrochloride salt. HRMS: m/z=287.1361, calculated m/z=287.1366 for C14H18F3N2O. 1H NMR (500 MHz, CD3OD) δ 7.39 (t, 2H, J=7.3 Hz), 7.31 (t, 1H, J=7.3 Hz), 7.27 (d, 2H, J=7.3 Hz), 4.81-4.73 (m, 1H), 4.24 (dd, 1H, J=12.0, 6.8 Hz), 3.94 (p, 1H, J=6.0 Hz), 3.76-3.67 (m, 2H), 2.56 (q, 1H, J=12.7 Hz), 2.42 (m, 1H), 1.00 (d, 3H, J=6.3 Hz).

reactant | tert-butyl[(3S,5S,6R)-5-(3-chlorophenyl)-6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate | 6.53 mmol, 2.75 g | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC(=CC=C1)Cl)C)CC(F)(F)F)=O)=O | C19H24ClF3N2O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.50 mmol, 700 mg | [OH-].[OH-].[Pd+2]
product | (3S,5S,6R)-3-Amino-6-methyl-5-phenyl-1-(2,2,2-trifluoroethyl)piperidin-2-one | N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(F)(F)F)=O | C14H17F3N2O
